Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Polysubstance ingestion
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
The patient is a ___ year old female with a PMH significant for 
depression who was admitted for polysubstance ingestion.  The 
patient endorsed suicidal ideation earlier today to her 
boyfriend after which she did cocaine (uncertain if snorted or 
injected).  Approximately 30 minutes later, she was deveoped an 
altered mental status while standing and her boyfriend helped 
her to the ground.  EMS was then called, per EMS report, the 
patient's doxepin and clonazepam bottles were noted to be empty, 
and her buproprion bottle was noted to be mostly full.

Upon initial presentation to the ___ ED, VS 96 93 122/89 18 
100%NRB. Serial ECG demonstrated a QRS that progressed fro 96 to 
102, and the patient received 1 amp bicarb and a bicarb gtt was 
started.  Toxicology was consulted with recommendations to treat 
with a bicarb gtt and obtain serial ECGs.  The patient was noted 
to be somnolent but arousable with a preserved gag reflex, 
slurred speech, and a non-focal neurologic exam. She was then 
transferred to the MICU for further evaluation.

Currently, the patient is somnolent but arousable to 
stimulation.
 
Past Medical History:
Depression

Medical: GERD, sciatica, heart murmur diagnosed as teenager, 
migraines.
Sugery: Bunion removal early ___, L foot.
OB/GYN: G3P1 (2 abortions).  Reports last mentrual period ___ 
years ago before placement of her IUD.  Reported negative HCV 
and HIV tests last month.
Psych: Depression, anxiety, PTSD, polysubstance abuse.
 
Social History:
Patient was raised in ___ by her mother and 
stepfather with one brother.  She graduated high school with 
honors and took a few college courses.  More recently, she has 
been living with her mother and cleaning houses, as well as 
receiving money from disability.  She has a ___ year old son who 
has been getting into trouble with smoking and drinking.  She is 
not in touch with her brother or her child's father.  She cites 
her boyfriend as her major source of emotional support.

Last month, her mother kicked her out of the house, claiming 
that she was addicted to the Vicodin prescribed after her bunion 
surgery.  She has been living with various acquaintances of her 
boyfriend in exchange for money since then.  She says that she 
is concerned about money, especially now that she has lost her 
income from cleaning houses with her mother.

She smokes 1 pack of cigarettes per day, and drinks alcohol 
"hardly ever."  She occasionally smokes cocaine but "not 
regularly."  In the past, she has used marijuana to cope with 
her depression.
 
Family History:
Denied family history of hypertension, hypercholesterolemia, 
diabetes, heart disease, cancer.  Extensive family psychiatric 
history.
-father: ___
-mother: depression (medicated)
-maternal aunt: "ball of nerves"
-maternal uncle: "real weird"--possible mania, schizophrenia

 
Physical Exam:
VS: 97.3 98/44 84 12 100%3L nc
General: Somnolent, responds to sternal rub
HEENT: Perrl, sclerae anicteric. MMM, neck supple without LAD.
Lungs: CTAB anteriorly
CV: Nl S1+S2, no m/r/g
Abdomen: S/NT/ND +bs
Ext: No c/c/e. 2+ dp/pt bilaterally
Neuro: Somnolent, arousable to sternal rub. 
 
Pertinent Results:
___ 01:03AM   WBC-6.1 RBC-3.98* HGB-12.8 HCT-36.5 MCV-92 
MCH-32.3* MCHC-35.2* RDW-12.7
___ 01:03AM   PLT COUNT-223
___ 01:03AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-TR
___ 01:03AM   ASA-NEG ___ ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 01:03AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-POS 
cocaine-POS amphetmn-NEG mthdone-NEG
___ 01:03AM   GLUCOSE-101 UREA N-8 CREAT-0.7 SODIUM-145 
POTASSIUM-4.0 CHLORIDE-106 TOTAL CO2-22 ANION GAP-21*
___ 01:07AM   GLUCOSE-101 LACTATE-3.0* NA+-148 K+-3.5 
CL--107 TCO2-24
___ 07:05AM BLOOD WBC-6.1 RBC-3.53* Hgb-11.1* Hct-32.2* 
MCV-91 MCH-31.5 MCHC-34.6 RDW-12.8 Plt ___
___ 07:05AM BLOOD Glucose-97 UreaN-9 Creat-0.6 Na-141 K-3.7 
Cl-110* HCO3-25 AnGap-10
___ 02:20PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-8.0 Leuks-NEG
 
Brief Hospital Course:
# Overdose: Patient presented with concern for unknown 
intoxication. Empty doxepin bottle found at home. The patient 
was noted to be somnolent but arousable with a preserved gag 
reflex, slurred speech, and a non-focal neurologic exam. She was 
started on bicarb gtt and then transferred to the MICU for 
further management.
The morning following admission patients mental status improved 
and continued to endorse suicidal ideation. EKGs remained wnl 
and bicarb was d/c'd. Psychiatry was consulted.

On evening of day of admission (___), the patient was 
transferred to the general medical floor and EKGs and blood 
chemistries were monitored. Her EKG on morning of discharge had 
improved from admission and no longer had concerns for QRS 
widening. On morning of discharge, she complained of positional 
back pain that worsened on inspiration and was determined to be 
musculoskeletal, likely secondary to resucitation efforts in the 
ED/MICU. We avoided opiate analgesics given history of substance 
abuse as well as recent tox positive for opidates. She was 
managed with ibuprofen and tylenol. We check a urinalysis prior 
to discharge, which was negative. Patient was cleared as 
medically stable and transferred to a psychiatric ___ 
facility.

 
Medications on Admission:
Per patient history:
Doxepin
Clonazepam
Bupropion

Per ___ in ___
Gabapentin 300mg po qid
clonazepam 1mg po bid
bupropion XL 300mg po qam
Prazosin 3mg po HS
Seroquel 300mg po BID and ___ tab daily
Doxepin 20mg po HS
 
Discharge Medications:
1. Acetaminophen 500 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for pain: Staggered with ibuprofen as needed 
for pain.  
2. Thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

4. Diazepam 5 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for CIWA: Administer for CIWA > 10.  
5. Ibuprofen 400 mg Tablet Sig: One (1) Tablet PO every six (6) 
hours as needed for pain: Staggered with acetaminophen as needed 
for pain.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Intentional polysubstance ingestion
Secondary:
Depression with suicidal ideation

 
Discharge Condition:
Medically stable for transfer to psychiatric facility. Has 
active suicidal ideation.

 
Discharge Instructions:
You were brought to the ED by EMS after taking the pills in your 
purse along with alcohol and cocaine.  When you arrived you were 
semi-conscious and having trouble breathing, and we were 
concerned about the effects of the drugs on your heart and 
brain.  You were kept in the MICU overnight, and once you woke 
up, you were transferred to the medicine floor for further 
monitoring.  When the medical team concluded that you were 
medically stable, you were transferred to a psychiatric 
___ facility because of your suicidality.
 
Followup Instructions:
___